US05037825
First, m-bromothiophenol was converted into 8-bromo-3,4-dihydro-1-benzothiepin-5(2H)-one. This ketone was methylated with MeMgI in ether and the resulting tertiary alcohol was deoxygenated as follows: 22.85 g were placed in 250 ml of hexane under argon and treated in succession with 75.1 g of sodium iodide (NaI), 26.4 ml of acetonitrile and 63.5 ml of Me3SiCl. The mixture was stirred at room temperature overnight, poured on to ice, extracted with ether, washed with bisulfite solution and water, dried and evaporated. Chromatography on silica gel with petroleum ether gave 18.1 g of 8-bromo-2,3,4,5-tetrahydro-5-methyl-1-benzothiepine as a pale yellow oil.

reactant | m-bromothiophenol | BrC=1C=C(C=CC1)S | C6H5BrS
reactant | 8-bromo-3,4-dihydro-1-benzothiepin-5(2H)-one | BrC1=CC2=C(C(CCCS2)=O)C=C1 | C10H9BrOS
reactant | MeMgI | C[Mg]I
solvent | ether | CCOCC | C4H10O
product | 8-bromo-2,3,4,5-tetrahydro-5-methyl-1-benzothiepine | 18.1 g | BrC1=CC2=C(C(CCCS2)C)C=C1 | C11H13BrS
